US07723378B2
A solution of 4,4-diethyl-cyclohex-2-enone (10.7 g, 70.5 mmol) in EA (400 mL) is treated with Pd/C (1.0 g, 10% Pd). The suspension is stirred at rt for 24 h under 1 bar of H2. The mixture is filtered, and the filtrate is evaporated to give 4,4-diethyl-cyclohexanone (11.7 g) as a colourless solid; 1H NMR (CD3OD): δ 2.32 (t, J=7.0 Hz, 4H), 1.66 (t, J=7.0 Hz, 4H), 1.48 (q, J=7.6 Hz, 4H), 0.88 (t, J=7.6 Hz, 6H).

reactant | 4,4-diethyl-cyclohex-2-enone | 70.5 mmol, 10.7 g | C(C)C1(C=CC(CC1)=O)CC | C10H16O
solvent | EA | 400 mL | CC(OCC)=O | C4H8O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4,4-diethyl-cyclohexanone | 11.7 g | C(C)C1(CCC(CC1)=O)CC | C10H18O
